US08877801B2
Example 4 was be prepared from the corresponding methylether/tert-butyl ester intermediates using method A. Example 4 was also prepared, using the following hydrolysis reaction: to a solution of (E)-methyl 3-(4-((6-hydroxy-2-(2-isopropylphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (25.8 mg, 0.058 mmol) in EtOH (1.5 mL) was added LiOH (2.0 M aqueous, 0.290 mL, 0.580 mmol). After 5 h at room temperature the reaction was acidified to pH 3 by addition of 1.0 N aqeuous HCl and extracted with 5% MeOH/EtOAc, the combined organic layers were passed through a phase separator and concentrated in vacuo to afford (E)-3-(4-((6-hydroxy-2-(2-isopropylphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (24.0 mg, 0.056 mmol, 96% yield). LC/MS (m/z, M-H): 429.0.

reactant | (E)-methyl 3-(4-((6-hydroxy-2-(2-isopropylphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.058 mmol, 25.8 mg | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C2=C(C=CC=C2)C(C)C)C1 | C27H24O4S
reactant | LiOH | 0.580 mmol, 2.0 M, 0.290 mL | [Li+].[OH-]
reactant | HCl | 1.0 N | Cl | ClH
solvent | EtOH | 1.5 mL | CCO | C2H6O
product | (E)-3-(4-((6-hydroxy-2-(2-isopropylphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.056 mmol, 24.0 mg, 96% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=C(C=CC=C2)C(C)C)C1 | C26H22O4S
